US06683181B2
A solution of N-(4-chlorobenzyl)-4-hydroxy-8-iodo-6-(4-morpholinylmethyl)-3-quinolinecarboxamide (300 mg), PdCl2(PPh3)2 (19.7 mg), CuI (5.3 mg), Et3N (10.4 mL), and prop-2-ynylurea (60.3 mg) is stirred at room temperature overnight. Distilled CH2Cl2 (10.4 mL) and additional PdCl2(PPh3)2 (19.7 mg) and CuI (5.3 mg) are added. The reaction is stirred at room temperature overnight. The reaction mixture is condensed, adsorbed onto silica, and chromatographed eluting with 2% MeOH in CH2Cl2 to 6.5% MeOH in CH2Cl2. Product containing fractions are combined and condensed to afford a mixture of cyclized and uncyclized materials. To a scintillation vial is added the mixture, EtOH (4 mL), Et3N (0.1 mL), and CuI (˜1 mg). The suspension is heated at 70° C. overnight. The reaction mixture is condensed, adsorbed onto silica, and chromatographed eluting with 6% MeOH in CH2Cl2 then 7% MeOH in CH2Cl2. Product-containing fractions are combined and condensed to afford a solid. The solid is suspended in CH2CT2/hexanes and filtered to afford 19.7 mg (7%) of 2-{[(aminocarbonyl)amino]methyl}-N-(4-chlorobenzyl)-8-(4-morpholinylmethyl)-6-oxo-6H-pyrrolo[3,2,1-ij]quinoline-5-carboxamide as a white solid.

reactant | N-(4-chlorobenzyl)-4-hydroxy-8-iodo-6-(4-morpholinylmethyl)-3-quinolinecarboxamide | 300 mg | ClC1=CC=C(CNC(=O)C=2C=NC3=C(C=C(C=C3C2O)CN2CCOCC2)I)C=C1 | C22H21ClIN3O3
reactant | prop-2-ynylurea | 60.3 mg | C(C#C)NC(=O)N | C4H6N2O
reactant | CH2Cl2 | 10.4 mL | C(Cl)Cl | CH2Cl2
catalyst | PdCl2(PPh3)2 | 19.7 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 5.3 mg | [Cu]I
catalyst | PdCl2(PPh3)2 | 19.7 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 5.3 mg | [Cu]I
catalyst | CuI | ˜1 mg | [Cu]I
solvent | Et3N | 0.1 mL | CCN(CC)CC | C6H15N
solvent | EtOH | 4 mL | CCO | C2H6O
solvent | Et3N | 10.4 mL | CCN(CC)CC | C6H15N
product | 2-{[(aminocarbonyl)amino]methyl}-N-(4-chlorobenzyl)-8-(4-morpholinylmethyl)-6-oxo-6H-pyrrolo[3,2,1-ij]quinoline-5-carboxamide | 19.7 mg, 7% | NC(=O)NCC1=CC=2C=C(C=C3C(C(=CN1C23)C(=O)NCC2=CC=C(C=C2)Cl)=O)CN2CCOCC2 | C26H26ClN5O4
